US04776929
101.6 g of dibenzyl carbonate, 23.6 g of trimethylamine, 60.5 g of water and 20.0 g of methanol were introduced in the same reactor as used in Preparation Example 1 and heated with stirring. After the temperature in the reactor reached 150° C., the reaction was continued for 5 hours at 150° C. Trimethylbenzylammonium hydrogencarbonate was obtained in a yield of 81.0 mol % (based on trimethylamine).

reactant | dibenzyl carbonate | 101.6 g | C(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C15H14O3
reactant | trimethylamine | 23.6 g | CN(C)C | C3H9N
reactant | water | 60.5 g | O | H2O
solvent | methanol | 20.0 g | CO | CH4O
product | Trimethylbenzylammonium hydrogencarbonate | C(O)([O-])=O.C[N+](CC1=CC=CC=C1)(C)C | InChI=1S/C10H16N.CH2O3/c1-11(2,3)9-10-7-5-4-6-8-10;2-1(3)4/h4-8H,9H2,1-3H3;(H2,2,3,4)/q+1;/p-1
